US08835472B2
5-(5-Iodopyridin-2-yloxy)pyrimidine
A mixture of 550 mg (2.18 mmol) 5-(5-bromopyridin-2-yloxy)pyrimidine and 2.5 mL 1,4-dioxane is charged with 42 mg (0.22 mmol) CuI, 650 mg (4.36 mmol) NaI and 50 μl (0.44 mmo) N,N-dimethylethylendiamine. The reaction mixture is stirred at 110° C. over night. The mixture is allowed to cool down to r.t. and diluted with EtOAc. The mixture is washed with 5% aq. ammonia solution and water. The organic layer is dried with Na2SO4 and the solvent is removed in vacuo to yield the desired product without further purification.

reactant | 5-(5-bromopyridin-2-yloxy)pyrimidine | 2.18 mmol, 550 mg | BrC=1C=CC(=NC1)OC=1C=NC=NC1 | C9H6BrN3O
reactant | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
reactant | NaI | 4.36 mmol, 650 mg | [Na+].[I-]
reactant | N,N-dimethylethylendiamine | 50 μl | CN(CCN)C | C4H12N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.22 mmol, 42 mg | [Cu]I
product | 5-(5-Iodopyridin-2-yloxy)pyrimidine | IC=1C=CC(=NC1)OC=1C=NC=NC1 | C9H6IN3O
